
* LTspice-compatible adaptation of TI UCC28C43 steady-state model
* Fixed boolean syntax for LTspice 24.x

.SUBCKT UCC28C43_STEADY2 COMP FB CS RTCT GND OUT VDD VREF

**** OSCILLATOR ****
STOF1 8 GND RTCT GND SOSC
GBDISCH RTCT GND VALUE={if(V(8,GND)<2.5 & V(13,GND)>2.5,8.4Meg,0)}
RPULL 8 VREF 100K

**** UVLO ****
STOF2 VDD 19 VDD GND SUVLO
RUVLO 19 GND 1MEG
RSTDBY VDD GND 309K
ROP 10 GND 2535

**** REFERENCE ****
EBREF 13 GND VALUE={if(V(19,GND)>6,5,0)}
RREG 10 VREF 0.158
CREF VREF GND 1N
V3 13 10
GB6 19 GND VALUE={if(V(19,GND)>4,if((I(V3)-I(EMY19))>2,2,if((I(V3)-I(EMY19))<0,0,(I(V3)-I(EMY19)))),0)}

**** CURRENT COMPARATOR ****
EB3 21 GND VALUE={if(V(CS,GND)>V(16,GND),5,0)}
R7 CS GND 1MEG
RDELAY 21 22 1K
CDELAY 22 GND 200P

**** ERROR AMPLIFIER ****
XAMP VREF FB COMP GND 28C4xAMP

**** OFFSET LIMITER ****
R4 12 11 2MEG
R6 11 GND 1MEG
EB2 16 GND VALUE={if(V(11,GND)>1,1,V(11,GND))}

V4 COMP 9 1
D1 9 12 D2

**** OUTPUT DRIVER ****
EMY19 191 GND VALUE={V(19,GND)}
XDRIVE 191 GND 5 OUT FETOUTC4X

**** S-R LATCH ****
XLATCH 8 VREF 22 GND 6 7 FFLOPC2

**** OUTPUT AND GATE ****
EOUT 5 GND VALUE={if(V(VREF,GND)>2.5 & V(7,GND)>2.5 & V(8,GND)>2.5,5,0)}

.MODEL SOSC VSWITCH (RON=.01 ROFF=1MEG VT=1.45 VH=0.95)
.MODEL SUVLO VSWITCH (RON=.01 ROFF=10MEG VT=8.0 VH=0.4)
.MODEL D2 D

.ENDS UCC28C43_STEADY

.SUBCKT 28C4xAMP 4 1 9 20
R1 10 4 100K
R2 10 20 100K
R3 6 20 316MEG
C1 6 20 8.7P
E1 5 20 6 20 1
R4 1 20 50MEG
I2 4 9 1m
R6 20 3 300
Q1 20 13 9 QPMOD
I3 13 20 68U
D14 3 13 DMOD
D15 20 6 DCLAMP
L1 2 3 10U
C2 3 20 200P
R9 5 2 5
C5 2 20 0.02U
G1 20 6 10 1 100U

.MODEL QPMOD PNP BF=217.647
.MODEL DCLAMP D (RS=10 BV=6.8 IBV=.01)
.MODEL DMOD D

.ENDS 28C4xAMP

.SUBCKT FETOUTC4X VCC GND IN OUT

RM1 VCC OUT 10MEG
M1 VCC 3 OUT OUT _NMOS

RM2 OUT GND 10MEG
M2 GND 3 OUT OUT _PMOS

EB1 2 OUT VALUE={if(V(IN,GND)>2,5,-5)}

R1 2 3 75
C2 3 GND 10P
C3 3 VCC 10P
R2 3 GND 10MEG

.MODEL _NMOS NMOS KP=1 NSUB=1E9 RD=10 VTO=3
.MODEL _PMOS PMOS KP=1 RD=5.5 VTO=-3 NSUB=1E9

.ENDS FETOUTC4X

.SUBCKT FFLOPC2 1 2 11 12 5 6
X1 7 4 2 8 NAND3_0C2
X2 8 3 10 9 NAND3_0C2
X3 1 8 10 7 NAND3_1C2
X4 4 9 1 10 NAND3_0C2
X5 4 7 6 5 NAND3_1C2
X6 5 10 3 6 NAND3_0C2
X7 11 4 INV
X8 12 3 INV
.ENDS FFLOPC2

.SUBCKT NAND3_0C2 1 2 3 4
E1 5 0 VALUE={if((V(1)>0.8)&(V(2)>0.8)&(V(3)>0.8),0,5)}
R1 5 4 100
C1 4 0 20P IC=0
.ENDS NAND3_0C2

.SUBCKT NAND3_1C2 1 2 3 4
E1 5 0 VALUE={if((V(1)>0.8)&(V(2)>0.8)&(V(3)>0.8),0,5)}
R1 5 4 100
C1 4 0 20P IC=3.5
.ENDS NAND3_1C2

.SUBCKT INV 1 2
E1 3 0 VALUE={if(V(1)>0.8,0,5)}
R1 3 2 100
C1 2 0 10P IC=3.5
.ENDS INV

.END
